US07659264B2
Step E. Benzyl 2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate
To a mixture of N-methyldicyclohexylamine (0.042 mg, 0.20 mmol) and benzyl 4-[2-((3-bromopyridin-2-yl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-oxoethyl]-3,6-dihydropyridine-1(2H)-carboxylate (100 mg, 0.178 mmol) in dioxane (2 mL) was added bis(tri-tert-butylphosphine) palladium(0) (9 mg, 0.018 mmol). After 5 min, the reaction was heated to 50° C. After 90 min, bis(tri-tert-butylphosphine) palladium(0) (9 mg) was added. After an additional 30 min at 50° C., the reaction mixture was diluted with water and extracted with ether (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The crude product was purified by silica gel chromatography, eluting with a gradient of 5 to 60% ethyl acetate:hexanes to give the title compound (68 mg). MS: m/z=480.2 (M+1).

reactant | N-methyldicyclohexylamine | 0.20 mmol, 0.042 mg | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | benzyl 4-[2-((3-bromopyridin-2-yl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-oxoethyl]-3,6-dihydropyridine-1(2H)-carboxylate | 0.178 mmol, 100 mg | BrC=1C(=NC=CC1)N(C(CC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)COCC[Si](C)(C)C | C26H34BrN3O4Si
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | bis(tri-tert-butylphosphine) palladium(0) | 0.018 mmol, 9 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
catalyst | bis(tri-tert-butylphosphine) palladium(0) | 9 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | Benzyl 2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate | 68 mg | O=C1N(C2=NC=CC=C2C2(CCN(C=C2)C(=O)OCC2=CC=CC=C2)C1)COCC[Si](C)(C)C | C26H33N3O4Si
